US06900215B2
A mixture of 3′-bromo-4′-fluorobiphenyl-2-carbonitrile (2.48 g, 9 mmol), potassium acetate (2.65 g, 27 mmol), bis(pinacolato)diboron (2.63 g, 10.4 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (220 mg, 0.3 mmol) in 1,4-dioxane (20 ml) was heated at 90° C. for 16 h. The reaction was cooled, filtered (washing the filter cake with a small quantity of dichloromethane) and the filtrate concentrated in vacuo. The residue was partitioned between diethyl ether (50 ml) and 2N sodium hydroxide (50 ml) and the organic phase discarded. The aqueous was washed with more ether and then cooled in an ice-water bath. The pH was adjusted to approximately 6 with 36% hydrochloric acid and then extracted with ether. The organic layer was washed with water, brine, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to afford 4′-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as a pale yellow solid (2.4 g, 83%): δH (400 MHz, CDCl3) 1.38 (12H, s), 7.16 (1H, dd, J 9 and 9), 7.43 (1H, td, J 8 and 2), 7.49-7.53 (1H, m), 7.60-7.67 (2H, m), 7.75 (1H, dd, J 8 and 2), 7.87 (1H, dd, J 5 and 3).

reactant | 3′-bromo-4′-fluorobiphenyl-2-carbonitrile | 9 mmol, 2.48 g | BrC=1C=C(C=CC1F)C=1C(=CC=CC1)C#N | C13H7BrFN
reactant | potassium acetate | 27 mmol, 2.65 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 10.4 mmol, 2.63 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.3 mmol, 220 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4′-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 2.4 g, 83% | FC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)B1OC(C(O1)(C)C)(C)C | C19H19BFNO2
